US05648021
A solution of 0.7 g of 1,8-difluoro-2,7-dioctyloxyphenanthrene in 50 ml of THF hydrogenated at atmospheric pressure at 20° C. with addition of 0.1 g of Pd/C (5% by weight). The catalyst is filtered off, the solvent is removed by vacuum distillation, and the residue is chromatographed on silica gel using dichloromethane. Recrystallization from acetonitrile gives 0.4 g of 1,8-difluoro-2,7-dioctyloxy-9,10-dihydrophenanthrene.

reactant | 1,8-difluoro-2,7-dioctyloxyphenanthrene | 0.7 g | FC1=C(C=CC=2C3=CC=C(C(=C3C=CC12)F)OCCCCCCCC)OCCCCCCCC | C30H40F2O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 1,8-difluoro-2,7-dioctyloxy-9,10-dihydrophenanthrene | 0.4 g | FC1=C(C=CC=2C3=CC=C(C(=C3CCC12)F)OCCCCCCCC)OCCCCCCCC | C30H42F2O2
